US05198451
A solution of n-butyllithium in hexanes (14 ml, 2.5 M) was added dropwise under a nitrogen atmosphere to ethylene glycol (28 ml) at 0° C. When addition was complete the mixture was stirred 0.5 h at room temperature. 3-Bromo-1,1-bis(2-methylphenyl)-1-propene (10.5 g, 35 mmol, prepared in a similar way to the method described in Example 23) was added and the reaction mixture was stirred at room temperature for 12 h and at 70° C. for 24 h. Water (100 ml) was added and the mixture was extracted with ethyl acetate (3×100 ml). The combined organic extracts were dried over magnesium sulphate and the solvent evaporated in vacuo. Flash chromatography of the residue on silica gel (250 g) using a mixture of n-heptane and ethyl acetate (10:1) as eluent provided 3.0 g (30%) of 2-(3,3-bis(2-methylphenyl)-2-propen-1-yloxy)ethanol.

reactant | n-butyllithium | C(CCC)[Li]
reactant | ethylene glycol | 28 ml | C(CO)O | C2H6O2
reactant | 3-Bromo-1,1-bis(2-methylphenyl)-1-propene | BrCC=C(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C17H17Br
solvent | Water | 100 ml | O | H2O
product | 2-(3,3-bis(2-methylphenyl)-2-propen-1-yloxy)ethanol | 3.0 g, 30% | CC1=C(C=CC=C1)C(=CCOCCO)C1=C(C=CC=C1)C | C19H22O2
